US09302991B2
<Step-1>: 2-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carb oxamide (single enantiomer)
The title compound is prepared in 50% yield (135 mg, a white solid) from (+)-1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (210 mg, 0.72 mmol, Amine-5, single enantiomer) and 2-aminopyrimidine-4-carboxylic acid (100 mg, 0.72 mmol) by the similar manner in Step-1 of Example 8.

reactant | (+)-1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 0.72 mmol, 210 mg | Cl.ClC=1C=C(C=NC1OCC(F)(F)F)C(C)N
reactant | 2-aminopyrimidine-4-carboxylic acid | 0.72 mmol, 100 mg | NC1=NC=CC(=N1)C(=O)O | C5H5N3O2
product | 2-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carb oxamide | 50% yield | NC1=NC=CC(=N1)C(=O)NC(C)C=1C=NC(=C(C1)Cl)OCC(F)(F)F | C14H13ClF3N5O2
